US03974162
4-Chloro-6-(p-chlorobenzylamino)-2-(2-propynylthio)pyrimidine.
A stirred mixture of 6.57 g. of 4,6-dichloro-2-(2-propynylthio)pyrimidine, 4.2 g. of p-chlorobenzylamine and 3.18 g. of sodium carbonate in 50 ml. of ethanol was heated under reflux for 5 hours. The reaction mixture was filtered and the filtrate was diluted with 100 ml. of water. The precipitate thus formed was collected and recrystallized from benzene (petroleum ether was added to initiate precipitation) to afford 3.3 g. of product, m.p. 85°-88°C.

reactant | 4,6-dichloro-2-(2-propynylthio)pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC#C | C7H4Cl2N2S
reactant | p-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-Chloro-6-(p-chlorobenzylamino)-2-(2-propynylthio)pyrimidine | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)Cl)SCC#C | C14H11Cl2N3S
